US07884207B2
1-[(4-Amino-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]cyclopropanol was prepared according to the general methods of Parts D through G of Example 84 using 1-(aminomethyl)cyclopropanol in lieu of 1-(2-aminoethyl)cyclopropanol in Part D, 4-chloro-3-nitronaphthyridine in lieu of 4-chloro-3-nitroquinoline in Part D, and trimethyl orthobutyrate in lieu of triethyl orthopropionate in Part F. The crude product was triturated with hot acetonitrile to provide a tan solid. Which was recrystallized from chloroform and hexanes and dried at 140° C. under vacuum to provide product as an off-white solid, mp 199-200° C. MS (ESI) m/z 298 (M+H)+; Anal. calcd for C16H19N5O: C, 64.63; H, 6.44; N, 23.55. Found: C, 64.32; H, 6.62; N, 23.67.

reactant | 1-(aminomethyl)cyclopropanol | NCC1(CC1)O | C4H9NO
reactant | 1-(2-aminoethyl)cyclopropanol | NCCC1(CC1)O | C5H11NO
reactant | 4-chloro-3-nitronaphthyridine | ClC1=C(C=NC2=NC=CC=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | trimethyl orthobutyrate | C(CCC)(OC)(OC)OC | C7H16O3
reactant | triethyl orthopropionate | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 1-[(4-Amino-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]cyclopropanol | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CC2)O)CCC | C16H19N5O
